US07592457B2
4,6-dibromo-2-[2-(4-methoxy-3-nitro-phenyl)-propionylamino]-benzoic acid methyl ester
The objective compound was prepared by the same procedure for the intermediate 1, using a 2-(4-methoxy-3-nitro-phenyl)-propionic acid (0.22 g, 0.98 mmol), SOCl2 (0.35 mL, 0.49 mmol), and 2-amino-4,6-dibromo-benzoic acid methyl ester (0.15 g, 0.49 mmol). After normal workup, the pure objective compound (0.15 g, 59%) was obtained as pale yellow solid by a flash column chromatography (n-hexane:EtOAc=3:1): 1H NMR (200 MHz, DMSO-d6) δ 1.39 (d, J=6.8 Hz, 3H, CH3), 3.55 (s, 3H, OCH3), 3.88 (s, 3H, CO2CH3), 3.89 (m, 1H, CH), 7.32 (d, J=9.0 Hz, 1H, ArH), 7.63 (dd, J=8.8, 1.8 Hz, 1H, ArH), 7.80-7.84 (m, 2H, ArH), 8.13-8.15 (m, 1H, ArH).

reactant | 2-(4-methoxy-3-nitro-phenyl)-propionic acid | 0.98 mmol, 0.22 g | COC1=C(C=C(C=C1)C(C(=O)O)C)[N+](=O)[O-] | C10H11NO5
reactant | SOCl2 | 0.49 mmol, 0.35 mL | O=S(Cl)Cl | Cl2OS
reactant | 2-amino-4,6-dibromo-benzoic acid methyl ester | 0.49 mmol, 0.15 g | COC(C1=C(C=C(C=C1Br)Br)N)=O | C8H7Br2NO2
reactant | n-hexane | CCCCCC | C6H14
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4,6-dibromo-2-[2-(4-methoxy-3-nitro-phenyl)-propionylamino]-benzoic acid methyl ester | 0.15 g, 59% | COC(C1=C(C=C(C=C1Br)Br)NC(C(C)C1=CC(=C(C=C1)OC)[N+](=O)[O-])=O)=O | C18H16Br2N2O6
